US08202858B2
4-[2-(4-Carboxy-3-chloro-phenoxy)-acetyl]-piperazine-1-carboxylic Acid Tert-butyl Ester
A solution of 4-[2-(3-Chloro-4-methoxycarbonyl-phenoxy)-acetyl]-piperazine-1-carboxylic acid tert-butyl ester from Example E41c.1 (4.5 g, 10.8 mmol) in THF at 0° C. was treated with potassium trimethylsilanolate (1.6 g, 10.9 mmol), and the mixture stirred at room temperature for 18 h. A further 1.6 g (10.9 mmol) potassium silanolate was added, and stirring continued at room temperature for 2 h. A further 1.6 g (10.9 mmol) potassium silanolate was added, and the mixture was stirred at 45° C. for 2 h. The mixture was then diluted with water and THF was removed in vacuo. The residue was washed with ether, cooled in an ice-bath and adjusted to pH5 with solid KHSO4 whereupon it was extracted with CHCl3 and CHCl3/isopropanol (90:10 v/v). The combined organics were dried and solvents were removed in vacuo to yield the title compound (3.7 g, 85%).

reactant | 4-[2-(3-Chloro-4-methoxycarbonyl-phenoxy)-acetyl]-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C(COC1=CC(=C(C=C1)C(=O)OC)Cl)=O | C19H25ClN2O6
reactant | potassium trimethylsilanolate | 10.9 mmol, 1.6 g | C[Si]([O-])(C)C.[K+]
reactant | potassium silanolate | 10.9 mmol, 1.6 g | [SiH3][O-].[K+]
reactant | potassium silanolate | 10.9 mmol, 1.6 g | [SiH3][O-].[K+]
solvent | THF | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 4-[2-(4-Carboxy-3-chloro-phenoxy)-acetyl]-piperazine-1-carboxylic Acid Tert-butyl Ester | 3.7 g, 85% | C(C)(C)(C)OC(=O)N1CCN(CC1)C(COC1=CC(=C(C=C1)C(=O)O)Cl)=O | C18H23ClN2O6
